US08106077B2
6-Bromo-1-methyl-1H-indazole-3-carboxylic acid methyl ester
The title compound is prepared essentially as described in the synthesis of 6-bromo-1-isopropyl-1H-indazole-3-carboxylic acid substituting 6-bromo-1H-indazole-3-carboxylic acid methyl ester for 1H-indazole-3-carboxylic acid methyl ester and methyl iodide for isopropyl iodide ES/MS m/e 268.0 (M+1).

reactant | 6-bromo-1-isopropyl-1H-indazole-3-carboxylic acid | BrC1=CC=C2C(=NN(C2=C1)C(C)C)C(=O)O | C11H11BrN2O2
reactant | 1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NNC2=CC=CC=C12 | C9H8N2O2
reactant | methyl iodide | CI | CH3I
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 6-Bromo-1-methyl-1H-indazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C2=CC(=CC=C12)Br)C | C10H9BrN2O2
